US07585880B2
ethyl 3-{2-fluoro-4-[(4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate
A solution of (4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol (510 mg), ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate (280 mg), triphenylphosphine (420 mg) and diethyl azodicarboxylate (40% toluene solution, 750 mg) in toluene (3 mL) was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give the title compound (490 mg, yield 64%) as a yellow oil.

reactant | (4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}phenyl)methanol | 510 mg | FC1=CC=C(C=C1)CCN(C=1SC=C(N1)C(C)C)CC1=CC=C(C=C1)CO | C22H25FN2OS
reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 280 mg | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
reactant | triphenylphosphine | 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 750 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-{2-fluoro-4-[(4-{[[2-(4-fluorophenyl)ethyl](4-isopropyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate | 490 mg, yield 64% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C(C)C)CCC1=CC=C(C=C1)F)CCC(=O)OCC | C33H36F2N2O3S
